US07462624B2
Step A: pyrimidine-4-carbohydrazide
To a solution of pyrimidine-4-carboxylic acid (1.0 g, 8.0 mmol) in THF (15 mL), N,N-Carbonyldiimidazole (1.4 g, 8.9 mmol) was added. After refluxing for 2 hours, hydrazine (0.8 g, 20 mmol) was added to the reaction mixture slowly with a syringe at 0° C. The reaction mixture was allowed to warm to room temperature slowly and then concentrated to yield the desired product as white solid. LCMS calculated for C5H7N4O (M+H): 139.1; found: 139.1.

reactant | pyrimidine-4-carboxylic acid | 8.0 mmol, 1.0 g | N1=CN=C(C=C1)C(=O)O | C5H4N2O2
reactant | N,N-Carbonyldiimidazole | 8.9 mmol, 1.4 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | hydrazine | 20 mmol, 0.8 g | NN | H4N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | pyrimidine-4-carbohydrazide | N1=CN=C(C=C1)C(=O)NN | C5H6N4O
